Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
NEPHROLITHIASIS, STAGHORN CALCULUS TYPE (>2CM)
 
Major Surgical or Invasive Procedure:
Cystoscopy; left percutaneous nephrolithotomy
for stone greater than 2 cm, difficult; left ureteroscopy
retrograde; left ureteroscopy antegrade; left antegrade
nephrostogram with interpretation; antegrade left ureteral
stent placement; left nephrostomy tube removal.

 
History of Present Illness:
___ y/o with 3+cm left kidney stone burden now s/p left PCNL.  
 History of urosepsis from obstructing stone with need for PCN 
before surgery. Received ceftriaxone pre op. Pre-op urine 
culture negative  

 
Past Medical History:
- nephrolithiasis
- caesarean x 3
- cosmetic mastopexy and abdominoplasty

 
Social History:
___
Family History:
- possible history of stone disease in mother; no FH of GU 
malignancy
 
Pertinent Results:
___ 08:30AM BLOOD WBC-15.7* RBC-3.45* Hgb-9.4* Hct-29.3* 
MCV-85 MCH-27.2 MCHC-32.1 RDW-14.6 RDWSD-45.1 Plt ___
___ 06:15AM BLOOD WBC-23.0*# RBC-3.88* Hgb-10.6* Hct-32.9* 
MCV-85 MCH-27.3 MCHC-32.2 RDW-14.5 RDWSD-44.6 Plt ___
___ 07:25PM BLOOD WBC-4.1# RBC-4.37 Hgb-11.8 Hct-37.1 
MCV-85 MCH-27.0 MCHC-31.8* RDW-14.1 RDWSD-43.8 Plt ___
___ 08:30AM BLOOD Glucose-93 UreaN-11 Creat-0.8 Na-140 
K-3.4 Cl-106 HCO3-21* AnGap-16
___ 06:15AM BLOOD Glucose-135* UreaN-10 Creat-0.9 Na-139 
K-3.8 Cl-106 HCO3-19* AnGap-18
___ 07:25PM BLOOD Glucose-128* UreaN-12 Creat-0.8 Na-141 
K-4.0 Cl-106 HCO3-21* AnGap-18
___ 07:25PM BLOOD Mg-1.7

___ URINE URINE CULTURE-FINAL ___. 

___ URINE URINE CULTURE-FINAL ___. 

___ URINE URINE CULTURE-FINAL ___. 

___ FOREIGN BODY WOUND CULTURE-PRELIMINARY 
___. 

 
Brief Hospital Course:
___ y/o with 3+cm left kidney stone burden now s/p left PCNL. 
Given her history of urosepsis from obstructing stone with need 
for PCN before surgery, she was admitted for overnight 
observation and sepsis monitoring. She received ceftriaxone 
preoperatively and was taking an oral antibiotic pre-admission. 
She underwent cystoscopy; left percutaneous nephrolithotomy for 
stone greater than 2 cm, difficult; left ureteroscopy 
retrograde; left ureteroscopy antegrade; left antegrade
nephrostogram with interpretation; antegrade left ureteral stent 
placement; left nephrostomy tube removal. She tolerated the 
procedure well and after recovery in the PACU, she was 
transported to the general surgical floor. On POD1 she was 
converted to oral medications and had a non-contrast CT to asses 
for residual stone burden. She mounted no fevers but had a 
leukocystosis to 23. On POD2 her WBC improved to 15 and her 
foley was removed and she voided without difficulty. She was 
discharged home with a plan to finish her preadmission Bactrim 
and return for ureteral stent removal. 
 
Medications on Admission:
The patient's OMR Medication list (as of ___: 
   sulfamethoxazole-trimethoprim [Bactrim DS] 
Bactrim DS 800 mg-160 mg tablet 
ONE tablet(s) by mouth twice a day 
 (Prescribed by Other Provider)  
   acetaminophen [Acetaminophen Extra Strength] 
Acetaminophen Extra Strength 500 mg tablet 
2 tablet(s) by mouth three times a day as needed 
 (Prescribed by Other Provider)  
 
a  This medication list has been confirmed with the patient  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth q4hrs 
Disp #*30 Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q8H:PRN Pain - Mild 
RX *ibuprofen 600 mg one tablet(s) by mouth q8hrs Disp #*30 
Tablet Refills:*0 
4.  Phenazopyridine 100 mg PO TID urethral burning Duration: 3 
Days 
RX *phenazopyridine [Pyridium] 100 mg one tablet(s) by mouth 
q8hrs Disp #*9 Tablet Refills:*0 
5.  Docusate Sodium 100 mg PO BID  
6.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
FINISH THE PREVIOUSLY PROVIDED RX  
7.  Senna 8.6 mg PO DAILY  
8.  Tamsulosin 0.4 mg PO QHS  

Macrobid was noted but the pre-admit antibiotic was bactrim

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PREOPERATIVE DIAGNOSIS:  Branch left ureteropelvic junction 
stone.

POSTOPERATIVE DIAGNOSIS:  Branch left ureteropelvic junction 
stone.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month; this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-The kidney stone fragments may be in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-No vigorous physical activity or sports for 4 weeks, including 
sexual. Avoid lifting/twistin/bending/pulling/pushing items 
weighing more than a ___ pounds. 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor. HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

 
Followup Instructions:
___